US09260427B2
Prepared using INT-3: To a stirring solution of 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide (65.7 mg, 0.16 mmol) in THF (3 mL) was added (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(2-(4-(heptyloxy)benzoyl)hydrazinecarbonyl)phenyl)propanoate INT-3 (100.0 mg, 0.16 mmol) and the mixture heated to 65° C. After 1 h, the reaction mixture was concentrated and purified by column chromatography (10-100% EA in iso-hexanes) to afford 37.0 mg (29%) of (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)-1,3,4-thiadiazol-2-yl)phenyl)propanoate as a yellow solid. LCMS-ESI (m/z) calculated for C36H43N3O4S: 613.8; no ion observed, tR=3.31 min. (Method 4).

reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide | 0.16 mmol, 65.7 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(2-(4-(heptyloxy)benzoyl)hydrazinecarbonyl)phenyl)propanoate | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C(=O)NNC(C2=CC=C(C=C2)OCCCCCCC)=O)C=C1 | C36H45N3O6
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)-1,3,4-thiadiazol-2-yl)phenyl)propanoate | 37.0 mg, 29% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C=2SC(=NN2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C36H43N3O4S
